US07495018B2
N-[4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-1,3-thiazol-2-yl]acetamide
To a solution of [4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-1,3-thiazol-2-yl]amine (0.50 g, 1.8 mmol) and 4-dimethylaminopyridine (0.061 g, 0.50 mmol) in N,N-dimethylacetamide (15 mL) was added acetyl chloride (0.19 mL, 2.7 mmol), and the mixture was stirred for 14 hours at 80° C. An aqueous sodium hydrogen carbonate solution was poured into the reaction mixture, and the deposited solid was filtrated. The resulted solid was washed with water, then, dried. The crude crystal was recrystallized from ethanol, to obtain a title compound (0.39 g, yield 67%).

reactant | [4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-1,3-thiazol-2-yl]amine | 1.8 mmol, 0.50 g | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)C)N | C16H15N3S
reactant | acetyl chloride | 2.7 mmol, 0.19 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.50 mmol, 0.061 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-1,3-thiazol-2-yl]acetamide | 0.39 g, yield 67% | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)C)NC(C)=O | C18H17N3OS
